US06440995B1
A mixture of 2,4-quinolinediol (1 g, 6.2 mmol) and 1,2,3,4-tetrahydroisoquinoline (1.57 ml, 12.4 mmol) was heated overnight under argon at 200° C. Reaction mixture was cooled to room temperature, diluted with MeOH, stirred for 30 min. and filtered. The solid obtained was refluxed overnight in the presence of POCl3 (3 ml). The reaction mixture was cooled to room temperature and poured into a 0° C. stirring mixture of 5N NaOH (50 ml) and CH2Cl2 (50 ml). After 15 min., aqueous phase was extracted with CH2Cl2 (2×), combined organic phases were washed with H2O, dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (hexane-ethyl acetate, 97:3 then 9:1) to provide 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline (0.1 g, 5%) as a colorless oil, MS: m/e=295.3 (M+H+).

reactant | 2,4-quinolinediol | 6.2 mmol, 1 g | N1=C(C=C(C2=CC=CC=C12)O)O | C9H7NO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 12.4 mmol, 1.57 ml | C1NCCC2=CC=CC=C12 | C9H11N
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 5N, 50 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | 0.1 g, 5% | ClC1=NC2=CC=CC=C2C(=C1)N1CC2=CC=CC=C2CC1 | C18H15ClN2
